US04487783
6.1 g (0.05 mol) of phenyl isocyanate were added dropwise to a solution of 9.65 g (0.05 mol) of N-4-fluorobenzyl-N-cyclopentylamine in 80 ml of anhydrous methylene chloride, while cooling with ice and stirring. The mixture was stirred for 30 minutes at room temperature and for 30 minutes at 40° C., the solvent was stripped off in vacuo, and the residue was recrystallized from acetonitrile. 14.1 g of N-4-fluorobenzyl-N-cyclopentyl-N'-phenylurea of melting point 120° to 121° C. were obtained.

reactant | phenyl isocyanate | 0.05 mol, 6.1 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-4-fluorobenzyl-N-cyclopentylamine | 0.05 mol, 9.65 g | FC1=CC=C(CNC2CCCC2)C=C1 | C12H16FN
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | N-4-fluorobenzyl-N-cyclopentyl-N'-phenylurea | 14.1 g | FC1=CC=C(CN(C(=O)NC2=CC=CC=C2)C2CCCC2)C=C1 | C19H21FN2O
